US08278302B2
2-Chloro-6-methyl-4-(1-methyl-1H-tetrazol-5-yl)-pyridine
To a solution of 2-Chloro-6,N,N-trimethyl-isonicotinamide (2.3 g) in acetonitrile (30 ml) at −15° C. was added DCM (20 ml) pre-cooled triflic anhydride (3 mL) dropwise. This was stirred for 10 min at −10° C. and then sodium azide (4.6 g) was added. This was allowed to warm to room temperature and after 2 h, the reaction was neutralised with a cold 5% NaHCO3(aq) solution and extracted with EtOAc. The organic layer was separated, dried and concentrated in vacuum. Flash chromatography (100:0 to 40:60 gradient cyclohexane:EtOAc) afforded the title compound (260 mg). Rt=1.21 min (method D).

reactant | 2-Chloro-6,N,N-trimethyl-isonicotinamide | 2.3 g | ClC=1C=C(C(=O)N(C)C)C=C(N1)C | C9H11ClN2O
reactant | triflic anhydride | 3 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium azide | 4.6 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6-methyl-4-(1-methyl-1H-tetrazol-5-yl)-pyridine | 260 mg | ClC1=NC(=CC(=C1)C1=NN=NN1C)C | C8H8ClN5
